US05756858
1-Chloro-3-(2,4,6-trimethylphenyl)-prop-1-ene
30 g (0.25 mol) of mesitylene and 0.7 g of aluminum chloride are introduced. 5.55 g (0.05 mol) of 1,3-dichloropropene (cis/trans) are then added dropwise at 20°-25° C. with cooling.

reactant | mesitylene | 0.25 mol, 30 g | C1(=CC(=CC(=C1)C)C)C | C9H12
reactant | aluminum chloride | 0.7 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 1,3-dichloropropene | 0.05 mol, 5.55 g | ClC=CCCl | C3H4Cl2
product | 1-Chloro-3-(2,4,6-trimethylphenyl)-prop-1-ene | ClC=CCC1=C(C=C(C=C1C)C)C | C12H15Cl
